US09108903B2
To a solution of methyl 4-aminobenzoate (514.6 mg, 3.40 mmol) and di-isopropylethyl amine (1.77 mL, 10.18 mmol) in DMF (10 mL) at 0° C. was added a solution of 2-fluoro-4,6-bis(trifluoromethyl)benzoyl chloride (1 g, 3.39 mmol) in dichloromethane. The reaction was complete after 10 min. The reaction mixture was diluted with ethyl acetate and washed with water (2×200 mL), 1 N HCl (2×50 mL), and brine then dried over Na2SO4, filtered and concentrated. Silica gel chromatography using a gradient of ethyl acetate/hexane (0-100%) provided methyl 4-[[2-fluoro-4,6-bis(trifluoromethyl)benzoyl]amino]benzoate (459 mg, 33%) as an off-white solid. ESI-MS m/z calc. 409.05, found 410.3 (M+1)+; Retention time: 1.86 minutes. 1H NMR (400 MHz, DMSO-d6) δ 11.22 (s, 1H), 8.36 (s, 1H), 7.62-7.57 (m, 2H), 7.56-7.51 (m, 2H), 7.51-7.46 (m, 1H), 3.42 (s, 3H) ppm.

reactant | methyl 4-aminobenzoate | 3.40 mmol, 514.6 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | di-isopropylethyl amine | 10.18 mmol, 1.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-fluoro-4,6-bis(trifluoromethyl)benzoyl chloride | 3.39 mmol, 1 g | FC1=C(C(=O)Cl)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H2ClF7O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[[2-fluoro-4,6-bis(trifluoromethyl)benzoyl]amino]benzoate | 459 mg, 33% | FC1=C(C(=O)NC2=CC=C(C(=O)OC)C=C2)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H10F7NO3
